US08212045B2
(R)-N-hydroxy-2,2,5,5-tetramethyl-1,3-dioxolane-4-carbimidoyl chloride (12.4 g, 59.7 mmol) was dissolved in Et2O (200 mL) and cooled in an ice bath. Methanesulfonyl chloride (4.6 ml, 59.7 mmol) was added. Triethylamine (8.3 ml, 59.7 mmol) was added slowly and the reaction was stirred in an ice bath for 30 minutes. The reaction was filtered and concentrated. The residue was purified over silica gel (100% CH2Cl2) to afford (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride (11.3 g, 39.55 mmol, 66.22% yield) as a white solid.

reactant | (R)-N-hydroxy-2,2,5,5-tetramethyl-1,3-dioxolane-4-carbimidoyl chloride | 59.7 mmol, 12.4 g | ON=C([C@@H]1OC(OC1(C)C)(C)C)Cl | C8H14ClNO3
reactant | Methanesulfonyl chloride | 59.7 mmol, 4.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 59.7 mmol, 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride | 39.55 mmol, 11.3 g, 66.22% yield | CC1(OC([C@@H](O1)C(=NOS(=O)(=O)C)Cl)(C)C)C | C9H16ClNO5S
